US07579469B2
A mixture of 2-[2-(3-bromophenyl)-2-methylpropyl]-2-trifluoromethyloxirane, 4-hydroxyquinoline (2 equiv.), and sodium ethoxide (21 wt. % solution in ethanol, 1 equiv.) in ethanol was heated at 85° C. for 14 hours, quenched with water, and concentrated in vacuo to remove most of the ethanol. The residue was diluted with half saturated aqueous sodium bicarbonate solution and methylene chloride. The organic phase was dried over sodium sulfate, filtered, and concentrated in vacuo. Purification of the residue by flash chromatography using ethyl acetate-hexanes gradient and concentration of the product-rich fractions afforded 1-[4-(3-bromophenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one.

reactant | 2-[2-(3-bromophenyl)-2-methylpropyl]-2-trifluoromethyloxirane | BrC=1C=C(C=CC1)C(CC1(OC1)C(F)(F)F)(C)C | C13H14BrF3O
reactant | 4-hydroxyquinoline | 2 equiv. | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | sodium ethoxide | 1 equiv. | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-[4-(3-bromophenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | BrC=1C=C(C=CC1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C | C22H21BrF3NO2
